US04097504
A magentically stirred solution of 8-(3-benzyloxypropionyl)-12-benzyloxyheptadecanoic acid (2.37 g., 4.4 millimole) in ethanol (50 ml.) is subjected to hydrogenation at atmospheric pressure at 23° C. in the presence of a 10% palladium on charcoal catalyst (0.3 g.) for one hour. The hydrogen uptake is 2.4 ml. (100% theory). The catalyst is removed by filtration and the solvent is removed by evaporation in vacuo to give 8-(3-hydroxypropionyl)-12-hydroxyheptadecanoic acid . 1/3 chloroformate as a viscous, colorless liquid (1.55 g., 97% yield); pmr (CDCl3) δ 0.88 (3H,t), 2.03 (H,m), 2.32 (2H,t), 2.68 (2H,t, J=5.5 cps.), 3.65 (H, b.s.), 3.86 (2H,t, J=5.5 cps.), 5.50 (3H, exchangeable s) and 7.32 (1/3H,s).

reactant | 8-(3-benzyloxypropionyl)-12-benzyloxyheptadecanoic acid | 4.4 millimole, 2.37 g | C(C1=CC=CC=C1)OCCC(=O)C(CCCCCCC(=O)O)CCCC(CCCCC)OCC1=CC=CC=C1 | C34H50O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
product | 8-(3-hydroxypropionyl)-12-hydroxyheptadecanoic acid | 97% yield | OCCC(=O)C(CCCCCCC(=O)O)CCCC(CCCCC)O | C20H38O5
